US07423150B2
1. Synthesis of 1-(2-methoxyethyl)piperidine-4-carboxylic acid
To ethylpiperidine-4-carboxylate (1 eq) in ethanol was added 2-bromo-1-methoxyethane (1 eq) and potassium carbonate 2 eq) and the resulting mixture was refluxed for 16 h. The mixture was then filtered and concentrated. To it was then added ethanol and water (3:1) and sodium hydroxide (1 eq) and it was refluxed for 16 h. The resulting 1-(2-methoxyethyl)piperidine-4-carboxylic acid was then azeotroped with toluene. MS: MH+=188.

reactant | ethylpiperidine-4-carboxylate | 1 eq | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | 2-bromo-1-methoxyethane | 1 eq | BrCCOC | C3H7BrO
reactant | potassium carbonate | 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1 eq | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(2-methoxyethyl)piperidine-4-carboxylic acid | COCCN1CCC(CC1)C(=O)O | C9H17NO3
